*-- pdngen: spice deck generated for chip 'chiplet2' PDN
*-- die chiplet2:  W/H: 0.004/0.002


.subckt chiplet2
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_7_0
+nd_pad_port_7_2
*-- p/g port #: 16/16
+nd_1_0_3500_3000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_500_1000 nd_1_0_1500_1000 0.016324
rd_1_2_0_0_1 nd_1_0_1500_1000 nd_1_0_2500_1000 0.016324
rd_1_2_0_0_2 nd_1_0_2500_1000 nd_1_0_3500_1000 0.016324
rd_1_2_0_0_3 nd_1_0_3500_1000 nd_1_0_4500_1000 0.016324
rd_1_2_0_0_4 nd_1_0_4500_1000 nd_1_0_5500_1000 0.016324
rd_1_2_0_0_5 nd_1_0_5500_1000 nd_1_0_6500_1000 0.016324
rd_1_2_0_0_6 nd_1_0_6500_1000 nd_1_0_7500_1000 0.016324
rd_1_2_0_0_7 nd_1_0_7500_1000 nd_1_0_8500_1000 0.016324
rd_1_2_0_0_8 nd_1_0_8500_1000 nd_1_0_9500_1000 0.016324
rd_1_2_0_1_0 nd_1_0_500_3000 nd_1_0_1500_3000 0.016324
rd_1_2_0_1_1 nd_1_0_1500_3000 nd_1_0_2500_3000 0.016324
rd_1_2_0_1_2 nd_1_0_2500_3000 nd_1_0_3500_3000 0.016324
rd_1_2_0_1_3 nd_1_0_3500_3000 nd_1_0_4500_3000 0.016324
rd_1_2_0_1_4 nd_1_0_4500_3000 nd_1_0_5500_3000 0.016324
rd_1_2_0_1_5 nd_1_0_5500_3000 nd_1_0_6500_3000 0.016324
rd_1_2_0_1_6 nd_1_0_6500_3000 nd_1_0_7500_3000 0.016324
rd_1_2_0_1_7 nd_1_0_7500_3000 nd_1_0_8500_3000 0.016324
rd_1_2_0_1_8 nd_1_0_8500_3000 nd_1_0_9500_3000 0.016324
rd_1_2_0_2_0 nd_1_0_500_5000 nd_1_0_1500_5000 0.016324
rd_1_2_0_2_1 nd_1_0_1500_5000 nd_1_0_2500_5000 0.016324
rd_1_2_0_2_2 nd_1_0_2500_5000 nd_1_0_3500_5000 0.016324
rd_1_2_0_2_3 nd_1_0_3500_5000 nd_1_0_4500_5000 0.016324
rd_1_2_0_2_4 nd_1_0_4500_5000 nd_1_0_5500_5000 0.016324
rd_1_2_0_2_5 nd_1_0_5500_5000 nd_1_0_6500_5000 0.016324
rd_1_2_0_2_6 nd_1_0_6500_5000 nd_1_0_7500_5000 0.016324
rd_1_2_0_2_7 nd_1_0_7500_5000 nd_1_0_8500_5000 0.016324
rd_1_2_0_2_8 nd_1_0_8500_5000 nd_1_0_9500_5000 0.016324
rd_1_2_0_3_0 nd_1_0_500_7000 nd_1_0_1500_7000 0.016324
rd_1_2_0_3_1 nd_1_0_1500_7000 nd_1_0_2500_7000 0.016324
rd_1_2_0_3_2 nd_1_0_2500_7000 nd_1_0_3500_7000 0.016324
rd_1_2_0_3_3 nd_1_0_3500_7000 nd_1_0_4500_7000 0.016324
rd_1_2_0_3_4 nd_1_0_4500_7000 nd_1_0_5500_7000 0.016324
rd_1_2_0_3_5 nd_1_0_5500_7000 nd_1_0_6500_7000 0.016324
rd_1_2_0_3_6 nd_1_0_6500_7000 nd_1_0_7500_7000 0.016324
rd_1_2_0_3_7 nd_1_0_7500_7000 nd_1_0_8500_7000 0.016324
rd_1_2_0_3_8 nd_1_0_8500_7000 nd_1_0_9500_7000 0.016324
rd_1_2_0_4_0 nd_1_0_500_9000 nd_1_0_1500_9000 0.016324
rd_1_2_0_4_1 nd_1_0_1500_9000 nd_1_0_2500_9000 0.016324
rd_1_2_0_4_2 nd_1_0_2500_9000 nd_1_0_3500_9000 0.016324
rd_1_2_0_4_3 nd_1_0_3500_9000 nd_1_0_4500_9000 0.016324
rd_1_2_0_4_4 nd_1_0_4500_9000 nd_1_0_5500_9000 0.016324
rd_1_2_0_4_5 nd_1_0_5500_9000 nd_1_0_6500_9000 0.016324
rd_1_2_0_4_6 nd_1_0_6500_9000 nd_1_0_7500_9000 0.016324
rd_1_2_0_4_7 nd_1_0_7500_9000 nd_1_0_8500_9000 0.016324
rd_1_2_0_4_8 nd_1_0_8500_9000 nd_1_0_9500_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_500_1000 nd_2_0_500_3000 0.016324
rd_2_1_0_0_1 nd_2_0_500_3000 nd_2_0_500_5000 0.016324
rd_2_1_0_0_2 nd_2_0_500_5000 nd_2_0_500_7000 0.016324
rd_2_1_0_0_3 nd_2_0_500_7000 nd_2_0_500_9000 0.016324
rd_2_1_0_1_0 nd_2_0_1500_1000 nd_2_0_1500_3000 0.016324
rd_2_1_0_1_1 nd_2_0_1500_3000 nd_2_0_1500_5000 0.016324
rd_2_1_0_1_2 nd_2_0_1500_5000 nd_2_0_1500_7000 0.016324
rd_2_1_0_1_3 nd_2_0_1500_7000 nd_2_0_1500_9000 0.016324
rd_2_1_0_2_0 nd_2_0_2500_1000 nd_2_0_2500_3000 0.016324
rd_2_1_0_2_1 nd_2_0_2500_3000 nd_2_0_2500_5000 0.016324
rd_2_1_0_2_2 nd_2_0_2500_5000 nd_2_0_2500_7000 0.016324
rd_2_1_0_2_3 nd_2_0_2500_7000 nd_2_0_2500_9000 0.016324
rd_2_1_0_3_0 nd_2_0_3500_1000 nd_2_0_3500_3000 0.016324
rd_2_1_0_3_1 nd_2_0_3500_3000 nd_2_0_3500_5000 0.016324
rd_2_1_0_3_2 nd_2_0_3500_5000 nd_2_0_3500_7000 0.016324
rd_2_1_0_3_3 nd_2_0_3500_7000 nd_2_0_3500_9000 0.016324
rd_2_1_0_4_0 nd_2_0_4500_1000 nd_2_0_4500_3000 0.016324
rd_2_1_0_4_1 nd_2_0_4500_3000 nd_2_0_4500_5000 0.016324
rd_2_1_0_4_2 nd_2_0_4500_5000 nd_2_0_4500_7000 0.016324
rd_2_1_0_4_3 nd_2_0_4500_7000 nd_2_0_4500_9000 0.016324
rd_2_1_0_5_0 nd_2_0_5500_1000 nd_2_0_5500_3000 0.016324
rd_2_1_0_5_1 nd_2_0_5500_3000 nd_2_0_5500_5000 0.016324
rd_2_1_0_5_2 nd_2_0_5500_5000 nd_2_0_5500_7000 0.016324
rd_2_1_0_5_3 nd_2_0_5500_7000 nd_2_0_5500_9000 0.016324
rd_2_1_0_6_0 nd_2_0_6500_1000 nd_2_0_6500_3000 0.016324
rd_2_1_0_6_1 nd_2_0_6500_3000 nd_2_0_6500_5000 0.016324
rd_2_1_0_6_2 nd_2_0_6500_5000 nd_2_0_6500_7000 0.016324
rd_2_1_0_6_3 nd_2_0_6500_7000 nd_2_0_6500_9000 0.016324
rd_2_1_0_7_0 nd_2_0_7500_1000 nd_2_0_7500_3000 0.016324
rd_2_1_0_7_1 nd_2_0_7500_3000 nd_2_0_7500_5000 0.016324
rd_2_1_0_7_2 nd_2_0_7500_5000 nd_2_0_7500_7000 0.016324
rd_2_1_0_7_3 nd_2_0_7500_7000 nd_2_0_7500_9000 0.016324
rd_2_1_0_8_0 nd_2_0_8500_1000 nd_2_0_8500_3000 0.016324
rd_2_1_0_8_1 nd_2_0_8500_3000 nd_2_0_8500_5000 0.016324
rd_2_1_0_8_2 nd_2_0_8500_5000 nd_2_0_8500_7000 0.016324
rd_2_1_0_8_3 nd_2_0_8500_7000 nd_2_0_8500_9000 0.016324
rd_2_1_0_9_0 nd_2_0_9500_1000 nd_2_0_9500_3000 0.016324
rd_2_1_0_9_1 nd_2_0_9500_3000 nd_2_0_9500_5000 0.016324
rd_2_1_0_9_2 nd_2_0_9500_5000 nd_2_0_9500_7000 0.016324
rd_2_1_0_9_3 nd_2_0_9500_7000 nd_2_0_9500_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_500_1000 nd_2_0_500_1000 0.005
rvd_1_0_0_1 nd_1_0_1500_1000 nd_2_0_1500_1000 0.005
rvd_1_0_0_2 nd_1_0_2500_1000 nd_2_0_2500_1000 0.005
rvd_1_0_0_3 nd_1_0_3500_1000 nd_2_0_3500_1000 0.005
rvd_1_0_0_4 nd_1_0_4500_1000 nd_2_0_4500_1000 0.005
rvd_1_0_0_5 nd_1_0_5500_1000 nd_2_0_5500_1000 0.005
rvd_1_0_0_6 nd_1_0_6500_1000 nd_2_0_6500_1000 0.005
rvd_1_0_0_7 nd_1_0_7500_1000 nd_2_0_7500_1000 0.005
rvd_1_0_0_8 nd_1_0_8500_1000 nd_2_0_8500_1000 0.005
rvd_1_0_0_9 nd_1_0_9500_1000 nd_2_0_9500_1000 0.005
rvd_1_0_1_0 nd_1_0_500_3000 nd_2_0_500_3000 0.005
rvd_1_0_1_1 nd_1_0_1500_3000 nd_2_0_1500_3000 0.005
rvd_1_0_1_2 nd_1_0_2500_3000 nd_2_0_2500_3000 0.005
rvd_1_0_1_3 nd_1_0_3500_3000 nd_2_0_3500_3000 0.005
rvd_1_0_1_4 nd_1_0_4500_3000 nd_2_0_4500_3000 0.005
rvd_1_0_1_5 nd_1_0_5500_3000 nd_2_0_5500_3000 0.005
rvd_1_0_1_6 nd_1_0_6500_3000 nd_2_0_6500_3000 0.005
rvd_1_0_1_7 nd_1_0_7500_3000 nd_2_0_7500_3000 0.005
rvd_1_0_1_8 nd_1_0_8500_3000 nd_2_0_8500_3000 0.005
rvd_1_0_1_9 nd_1_0_9500_3000 nd_2_0_9500_3000 0.005
rvd_1_0_2_0 nd_1_0_500_5000 nd_2_0_500_5000 0.005
rvd_1_0_2_1 nd_1_0_1500_5000 nd_2_0_1500_5000 0.005
rvd_1_0_2_2 nd_1_0_2500_5000 nd_2_0_2500_5000 0.005
rvd_1_0_2_3 nd_1_0_3500_5000 nd_2_0_3500_5000 0.005
rvd_1_0_2_4 nd_1_0_4500_5000 nd_2_0_4500_5000 0.005
rvd_1_0_2_5 nd_1_0_5500_5000 nd_2_0_5500_5000 0.005
rvd_1_0_2_6 nd_1_0_6500_5000 nd_2_0_6500_5000 0.005
rvd_1_0_2_7 nd_1_0_7500_5000 nd_2_0_7500_5000 0.005
rvd_1_0_2_8 nd_1_0_8500_5000 nd_2_0_8500_5000 0.005
rvd_1_0_2_9 nd_1_0_9500_5000 nd_2_0_9500_5000 0.005
rvd_1_0_3_0 nd_1_0_500_7000 nd_2_0_500_7000 0.005
rvd_1_0_3_1 nd_1_0_1500_7000 nd_2_0_1500_7000 0.005
rvd_1_0_3_2 nd_1_0_2500_7000 nd_2_0_2500_7000 0.005
rvd_1_0_3_3 nd_1_0_3500_7000 nd_2_0_3500_7000 0.005
rvd_1_0_3_4 nd_1_0_4500_7000 nd_2_0_4500_7000 0.005
rvd_1_0_3_5 nd_1_0_5500_7000 nd_2_0_5500_7000 0.005
rvd_1_0_3_6 nd_1_0_6500_7000 nd_2_0_6500_7000 0.005
rvd_1_0_3_7 nd_1_0_7500_7000 nd_2_0_7500_7000 0.005
rvd_1_0_3_8 nd_1_0_8500_7000 nd_2_0_8500_7000 0.005
rvd_1_0_3_9 nd_1_0_9500_7000 nd_2_0_9500_7000 0.005
rvd_1_0_4_0 nd_1_0_500_9000 nd_2_0_500_9000 0.005
rvd_1_0_4_1 nd_1_0_1500_9000 nd_2_0_1500_9000 0.005
rvd_1_0_4_2 nd_1_0_2500_9000 nd_2_0_2500_9000 0.005
rvd_1_0_4_3 nd_1_0_3500_9000 nd_2_0_3500_9000 0.005
rvd_1_0_4_4 nd_1_0_4500_9000 nd_2_0_4500_9000 0.005
rvd_1_0_4_5 nd_1_0_5500_9000 nd_2_0_5500_9000 0.005
rvd_1_0_4_6 nd_1_0_6500_9000 nd_2_0_6500_9000 0.005
rvd_1_0_4_7 nd_1_0_7500_9000 nd_2_0_7500_9000 0.005
rvd_1_0_4_8 nd_1_0_8500_9000 nd_2_0_8500_9000 0.005
rvd_1_0_4_9 nd_1_0_9500_9000 nd_2_0_9500_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_500_1000 0 926.081
rdesr_0_0_0_0 nd_1_0_500_1000 nd_1_0_500_1000_ci 926.081
cd_0_0_0_0 nd_1_0_500_1000_ci 0 2.15964e-12
rdload_0_0_0_1 nd_1_0_1500_1000 0 108.289
rdesr_0_0_0_1 nd_1_0_1500_1000 nd_1_0_1500_1000_ci 108.289
cd_0_0_0_1 nd_1_0_1500_1000_ci 0 1.84691e-11
rdload_0_0_0_2 nd_1_0_2500_1000 0 369.161
rdesr_0_0_0_2 nd_1_0_2500_1000 nd_1_0_2500_1000_ci 369.161
cd_0_0_0_2 nd_1_0_2500_1000_ci 0 5.41769e-12
rdload_0_0_0_3 nd_1_0_3500_1000 0 44.1917
rdesr_0_0_0_3 nd_1_0_3500_1000 nd_1_0_3500_1000_ci 44.1917
cd_0_0_0_3 nd_1_0_3500_1000_ci 0 4.52573e-11
rdload_0_0_0_4 nd_1_0_4500_1000 0 51.7189
rdesr_0_0_0_4 nd_1_0_4500_1000 nd_1_0_4500_1000_ci 51.7189
cd_0_0_0_4 nd_1_0_4500_1000_ci 0 3.86706e-11
rdload_0_0_0_5 nd_1_0_5500_1000 0 61.9546
rdesr_0_0_0_5 nd_1_0_5500_1000 nd_1_0_5500_1000_ci 61.9546
cd_0_0_0_5 nd_1_0_5500_1000_ci 0 3.22817e-11
rdload_0_0_0_6 nd_1_0_6500_1000 0 105.242
rdesr_0_0_0_6 nd_1_0_6500_1000 nd_1_0_6500_1000_ci 105.242
cd_0_0_0_6 nd_1_0_6500_1000_ci 0 1.90037e-11
rdload_0_0_0_7 nd_1_0_7500_1000 0 56.3448
rdesr_0_0_0_7 nd_1_0_7500_1000 nd_1_0_7500_1000_ci 56.3448
cd_0_0_0_7 nd_1_0_7500_1000_ci 0 3.54957e-11
rdload_0_0_0_8 nd_1_0_8500_1000 0 341.58
rdesr_0_0_0_8 nd_1_0_8500_1000 nd_1_0_8500_1000_ci 341.58
cd_0_0_0_8 nd_1_0_8500_1000_ci 0 5.85514e-12
rdload_0_0_0_9 nd_1_0_9500_1000 0 43.758
rdesr_0_0_0_9 nd_1_0_9500_1000 nd_1_0_9500_1000_ci 43.758
cd_0_0_0_9 nd_1_0_9500_1000_ci 0 4.57059e-11
rdload_0_0_0_10 nd_1_0_500_3000 0 214.379
rdesr_0_0_0_10 nd_1_0_500_3000 nd_1_0_500_3000_ci 214.379
cd_0_0_0_10 nd_1_0_500_3000_ci 0 9.32926e-12
rdload_0_0_0_11 nd_1_0_1500_3000 0 77.1379
rdesr_0_0_0_11 nd_1_0_1500_3000 nd_1_0_1500_3000_ci 77.1379
cd_0_0_0_11 nd_1_0_1500_3000_ci 0 2.59276e-11
rdload_0_0_0_12 nd_1_0_2500_3000 0 46.7814
rdesr_0_0_0_12 nd_1_0_2500_3000 nd_1_0_2500_3000_ci 46.7814
cd_0_0_0_12 nd_1_0_2500_3000_ci 0 4.2752e-11
rdload_0_0_0_13 nd_1_0_3500_3000 0 154.246
rdesr_0_0_0_13 nd_1_0_3500_3000 nd_1_0_3500_3000_ci 154.246
cd_0_0_0_13 nd_1_0_3500_3000_ci 0 1.29663e-11
rdload_0_0_0_14 nd_1_0_4500_3000 0 87.9292
rdesr_0_0_0_14 nd_1_0_4500_3000 nd_1_0_4500_3000_ci 87.9292
cd_0_0_0_14 nd_1_0_4500_3000_ci 0 2.27456e-11
rdload_0_0_0_15 nd_1_0_5500_3000 0 123.816
rdesr_0_0_0_15 nd_1_0_5500_3000 nd_1_0_5500_3000_ci 123.816
cd_0_0_0_15 nd_1_0_5500_3000_ci 0 1.6153e-11
rdload_0_0_0_16 nd_1_0_6500_3000 0 60.7629
rdesr_0_0_0_16 nd_1_0_6500_3000 nd_1_0_6500_3000_ci 60.7629
cd_0_0_0_16 nd_1_0_6500_3000_ci 0 3.29148e-11
rdload_0_0_0_17 nd_1_0_7500_3000 0 46.5166
rdesr_0_0_0_17 nd_1_0_7500_3000 nd_1_0_7500_3000_ci 46.5166
cd_0_0_0_17 nd_1_0_7500_3000_ci 0 4.29954e-11
rdload_0_0_0_18 nd_1_0_8500_3000 0 55.1039
rdesr_0_0_0_18 nd_1_0_8500_3000 nd_1_0_8500_3000_ci 55.1039
cd_0_0_0_18 nd_1_0_8500_3000_ci 0 3.62951e-11
rdload_0_0_0_19 nd_1_0_9500_3000 0 66.8143
rdesr_0_0_0_19 nd_1_0_9500_3000 nd_1_0_9500_3000_ci 66.8143
cd_0_0_0_19 nd_1_0_9500_3000_ci 0 2.99337e-11
rdload_0_0_0_20 nd_1_0_500_5000 0 8563.76
rdesr_0_0_0_20 nd_1_0_500_5000 nd_1_0_500_5000_ci 8563.76
cd_0_0_0_20 nd_1_0_500_5000_ci 0 2.33542e-13
rdload_0_0_0_21 nd_1_0_1500_5000 0 60.0662
rdesr_0_0_0_21 nd_1_0_1500_5000 nd_1_0_1500_5000_ci 60.0662
cd_0_0_0_21 nd_1_0_1500_5000_ci 0 3.32966e-11
rdload_0_0_0_22 nd_1_0_2500_5000 0 74.8931
rdesr_0_0_0_22 nd_1_0_2500_5000 nd_1_0_2500_5000_ci 74.8931
cd_0_0_0_22 nd_1_0_2500_5000_ci 0 2.67047e-11
rdload_0_0_0_23 nd_1_0_3500_5000 0 97.6152
rdesr_0_0_0_23 nd_1_0_3500_5000 nd_1_0_3500_5000_ci 97.6152
cd_0_0_0_23 nd_1_0_3500_5000_ci 0 2.04886e-11
rdload_0_0_0_24 nd_1_0_4500_5000 0 54.3753
rdesr_0_0_0_24 nd_1_0_4500_5000 nd_1_0_4500_5000_ci 54.3753
cd_0_0_0_24 nd_1_0_4500_5000_ci 0 3.67814e-11
rdload_0_0_0_25 nd_1_0_5500_5000 0 84.1936
rdesr_0_0_0_25 nd_1_0_5500_5000 nd_1_0_5500_5000_ci 84.1936
cd_0_0_0_25 nd_1_0_5500_5000_ci 0 2.37548e-11
rdload_0_0_0_26 nd_1_0_6500_5000 0 116.638
rdesr_0_0_0_26 nd_1_0_6500_5000 nd_1_0_6500_5000_ci 116.638
cd_0_0_0_26 nd_1_0_6500_5000_ci 0 1.71471e-11
rdload_0_0_0_27 nd_1_0_7500_5000 0 59.3752
rdesr_0_0_0_27 nd_1_0_7500_5000 nd_1_0_7500_5000_ci 59.3752
cd_0_0_0_27 nd_1_0_7500_5000_ci 0 3.36841e-11
rdload_0_0_0_28 nd_1_0_8500_5000 0 502.485
rdesr_0_0_0_28 nd_1_0_8500_5000 nd_1_0_8500_5000_ci 502.485
cd_0_0_0_28 nd_1_0_8500_5000_ci 0 3.98022e-12
rdload_0_0_0_29 nd_1_0_9500_5000 0 53.6569
rdesr_0_0_0_29 nd_1_0_9500_5000 nd_1_0_9500_5000_ci 53.6569
cd_0_0_0_29 nd_1_0_9500_5000_ci 0 3.72739e-11
rdload_0_0_0_30 nd_1_0_500_7000 0 65.3385
rdesr_0_0_0_30 nd_1_0_500_7000 nd_1_0_500_7000_ci 65.3385
cd_0_0_0_30 nd_1_0_500_7000_ci 0 3.06098e-11
rdload_0_0_0_31 nd_1_0_1500_7000 0 2394.52
rdesr_0_0_0_31 nd_1_0_1500_7000 nd_1_0_1500_7000_ci 2394.52
cd_0_0_0_31 nd_1_0_1500_7000_ci 0 8.35239e-13
rdload_0_0_0_32 nd_1_0_2500_7000 0 49.1693
rdesr_0_0_0_32 nd_1_0_2500_7000 nd_1_0_2500_7000_ci 49.1693
cd_0_0_0_32 nd_1_0_2500_7000_ci 0 4.06757e-11
rdload_0_0_0_33 nd_1_0_3500_7000 0 465.729
rdesr_0_0_0_33 nd_1_0_3500_7000 nd_1_0_3500_7000_ci 465.729
cd_0_0_0_33 nd_1_0_3500_7000_ci 0 4.29434e-12
rdload_0_0_0_34 nd_1_0_4500_7000 0 95.5819
rdesr_0_0_0_34 nd_1_0_4500_7000 nd_1_0_4500_7000_ci 95.5819
cd_0_0_0_34 nd_1_0_4500_7000_ci 0 2.09245e-11
rdload_0_0_0_35 nd_1_0_5500_7000 0 53.0986
rdesr_0_0_0_35 nd_1_0_5500_7000 nd_1_0_5500_7000_ci 53.0986
cd_0_0_0_35 nd_1_0_5500_7000_ci 0 3.76658e-11
rdload_0_0_0_36 nd_1_0_6500_7000 0 1548.36
rdesr_0_0_0_36 nd_1_0_6500_7000 nd_1_0_6500_7000_ci 1548.36
cd_0_0_0_36 nd_1_0_6500_7000_ci 0 1.29169e-12
rdload_0_0_0_37 nd_1_0_7500_7000 0 110.9
rdesr_0_0_0_37 nd_1_0_7500_7000 nd_1_0_7500_7000_ci 110.9
cd_0_0_0_37 nd_1_0_7500_7000_ci 0 1.80343e-11
rdload_0_0_0_38 nd_1_0_8500_7000 0 57.8771
rdesr_0_0_0_38 nd_1_0_8500_7000 nd_1_0_8500_7000_ci 57.8771
cd_0_0_0_38 nd_1_0_8500_7000_ci 0 3.4556e-11
rdload_0_0_0_39 nd_1_0_9500_7000 0 428.907
rdesr_0_0_0_39 nd_1_0_9500_7000 nd_1_0_9500_7000_ci 428.907
cd_0_0_0_39 nd_1_0_9500_7000_ci 0 4.66301e-12
rdload_0_0_0_40 nd_1_0_500_9000 0 133.587
rdesr_0_0_0_40 nd_1_0_500_9000 nd_1_0_500_9000_ci 133.587
cd_0_0_0_40 nd_1_0_500_9000_ci 0 1.49715e-11
rdload_0_0_0_41 nd_1_0_1500_9000 0 242.223
rdesr_0_0_0_41 nd_1_0_1500_9000 nd_1_0_1500_9000_ci 242.223
cd_0_0_0_41 nd_1_0_1500_9000_ci 0 8.25685e-12
rdload_0_0_0_42 nd_1_0_2500_9000 0 79.884
rdesr_0_0_0_42 nd_1_0_2500_9000 nd_1_0_2500_9000_ci 79.884
cd_0_0_0_42 nd_1_0_2500_9000_ci 0 2.50363e-11
rdload_0_0_0_43 nd_1_0_3500_9000 0 48.4457
rdesr_0_0_0_43 nd_1_0_3500_9000 nd_1_0_3500_9000_ci 48.4457
cd_0_0_0_43 nd_1_0_3500_9000_ci 0 4.12833e-11
rdload_0_0_0_44 nd_1_0_4500_9000 0 70.4685
rdesr_0_0_0_44 nd_1_0_4500_9000 nd_1_0_4500_9000_ci 70.4685
cd_0_0_0_44 nd_1_0_4500_9000_ci 0 2.83815e-11
rdload_0_0_0_45 nd_1_0_5500_9000 0 44.368
rdesr_0_0_0_45 nd_1_0_5500_9000 nd_1_0_5500_9000_ci 44.368
cd_0_0_0_45 nd_1_0_5500_9000_ci 0 4.50775e-11
rdload_0_0_0_46 nd_1_0_6500_9000 0 51.9793
rdesr_0_0_0_46 nd_1_0_6500_9000 nd_1_0_6500_9000_ci 51.9793
cd_0_0_0_46 nd_1_0_6500_9000_ci 0 3.84769e-11
rdload_0_0_0_47 nd_1_0_7500_9000 0 62.8121
rdesr_0_0_0_47 nd_1_0_7500_9000 nd_1_0_7500_9000_ci 62.8121
cd_0_0_0_47 nd_1_0_7500_9000_ci 0 3.1841e-11
rdload_0_0_0_48 nd_1_0_8500_9000 0 106.484
rdesr_0_0_0_48 nd_1_0_8500_9000 nd_1_0_8500_9000_ci 106.484
cd_0_0_0_48 nd_1_0_8500_9000_ci 0 1.87821e-11
rdload_0_0_0_49 nd_1_0_9500_9000 0 56.7598
rdesr_0_0_0_49 nd_1_0_9500_9000 nd_1_0_9500_9000_ci 56.7598
cd_0_0_0_49 nd_1_0_9500_9000_ci 0 3.52362e-11

*-- intentional decap
cd_add_cap0 nd_1_0_1500_3000 nd0 'dcap_int_val134'
cd_add_cap1 nd_1_0_3500_3000 nd1 'dcap_int_val135'
cd_add_cap2 nd_1_0_5500_3000 nd2 'dcap_int_val136'
cd_add_cap3 nd_1_0_8500_3000 nd3 'dcap_int_val137'
cd_add_cap4 nd_1_0_1500_7000 nd4 'dcap_int_val138'
cd_add_cap5 nd_1_0_3500_7000 nd5 'dcap_int_val139'
cd_add_cap6 nd_1_0_5500_7000 nd6 'dcap_int_val140'
cd_add_cap7 nd_1_0_8500_7000 nd7 'dcap_int_val141'
rd_add0 nd0 0 'esr13'
rd_add1 nd1 0 'esr14'
rd_add2 nd2 0 'esr15'
rd_add3 nd3 0 'esr16'
rd_add4 nd4 0 'esr17'
rd_add5 nd5 0 'esr18'
rd_add6 nd6 0 'esr19'
rd_add7 nd7 0 'esr20'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_6_1 nd_pad_port_6_1 nd_pad_6_1 ubump_subckt
xd_pad_6_3 nd_pad_port_6_3 nd_pad_6_3 ubump_subckt
xd_pad_7_0 nd_pad_port_7_0 nd_pad_7_0 ubump_subckt
xd_pad_7_2 nd_pad_port_7_2 nd_pad_7_2 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1500_3000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1500_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_2500_1000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_2500_5000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_3500_3000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_3500_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_4500_1000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_4500_5000  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_5500_3000  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_5500_7000  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_6500_1000  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_6500_5000  0.001
rd_pad2via_6_1 nd_pad_6_1 nd_2_0_7500_3000  0.001
rd_pad2via_6_3 nd_pad_6_3 nd_2_0_7500_7000  0.001
rd_pad2via_7_0 nd_pad_7_0 nd_2_0_8500_1000  0.001
rd_pad2via_7_2 nd_pad_7_2 nd_2_0_8500_5000  0.001

.ends chiplet2
